US07291635B2
HOBt (16 mg, 0.102 mmol), (S)-2-acetylamino-3-phenyl-propionic acid (21 mg, 0.102 mmol) and EDCl (21 mg, 0.112 mmol) are added to a solution of the title B compound, (S)-2-amino-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentyl-propionamide (50 mg, 0.102 mmol) in CH2Cl2 (3 mL) and the reaction is stirred at RT for 2.5 h, then concentrated. The residue is taken up in EtOAc, washed with 1N aqueous HCl, saturated NaHCO3 and brine, dried over anhydrous MgSO4, filtered and concentrated to yield (S)-2-acetylamino-N-((S)-2-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-3-phenyl-propionamide as a white foam: [M+1]+=678.

reactant | HOBt | 0.102 mmol, 16 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2-acetylamino-3-phenyl-propionic acid | 0.102 mmol, 21 mg | C(C)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C11H13NO3
reactant | EDCl | 0.112 mmol, 21 mg | CCN=C=NCCCN(C)C.Cl
reactant | (S)-2-amino-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentyl-propionamide | 0.102 mmol, 50 mg | N[C@H](C(=O)NCCCCC)CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O | C24H32N4O5S
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-acetylamino-N-((S)-2-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-3-phenyl-propionamide | C(C)(=O)N[C@H](C(=O)N[C@@H](CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)C(NCCCCC)=O)CC1=CC=CC=C1 | C35H43N5O7S
